*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/2.20e+01[uF]/2.5[V]
* Murata P/N :GRM155C80E226ME11
* Property : C = 2.20e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C80E226ME11 Port1 Port2
C01 Port1 N01 1.44e-05
R01 Port1 N01 2.27e+06
L02 N01 N02 1.19e-10
R03 N02 N03 2.61e-03
C04 N03 N04 6.87e-04
R04 N03 N04 6.55e+00
C05 N04 N05 1.02e-03
R05 N04 N05 5.06e-01
C06 N05 N06 1.13e-03
R06 N05 N06 7.02e-02
C07 N06 N07 1.53e-03
R07 N06 N07 7.59e-03
C08 N07 N08 1.17e-03
R08 N07 N08 2.29e-03
L09 N08 N09 2.05e-11
R09 N08 N09 1.30e-01
L10 N09 N10 4.91e-11
R10 N09 N10 3.44e-02
L11 N10 N11 1.97e-10
R11 N10 N11 1.48e-02
C12 N11 N12 2.70e-05
L12 N11 N12 7.97e-11
R12 N11 N12 2.55e-03
C13 N12 N13 1.28e-05
L13 N12 N13 5.53e-11
R13 N12 N13 2.78e-03
C14 N13 Port2 1.72e-11
L14 N13 Port2 1.34e-11
R14 N13 Port2 1.94e+00
.ENDS GRM155C80E226ME11
